US04720550
4-(1H-Imidazol-1-yl)-thiophen-2-aldehyde
In a three-necked-20-l-reaction bulb aquipped with a thermometer, a reflux cooler and a KPG-stirrer, 1.911 kg (10 mole) of 4-bromothiophen-2-aldehyde, 4.084 kg (60 mole) of imidazol of 99% purity and 0.065 kg (about 1 mole) of powderous copper metal are added to 10 l of water. The reaction mixture is stirred and boiled to reflux for 5 hours. After cooling the reaction mixture to 60° C., the reaction mixture is extracted several times with a total of 26 l of chloroform. The combined chloroform solutions are washed three times mit 15 l of water. The washed chloroform phase is mixed with 10 l of water and then brought to a pH of smaller than 1 by the addition of about 750 ml of 25% hydrochloric acid with vigorous stirring. The aqueous acidic phase is added with 30 l of chloroform at 40° C. Subsequently, about 600 g of NaHCO3 is added thereto slowly with vigorous stirring, until the aqueous phase reaches a pH larger than 7.5. In order to extract completely the precipitated product, the chloroform phase is separated and the aqueous phase is again extracted with 20 l of chloroform. The combined chloroform phases are evaporated to a final volume of about 4 l and is added to 9 l of petrol ether (b.p. 40° to 60° C.) with vigorous stirring. The resulting precipitate is filtered off with suction and is dried at 50° C.

reactant | 4-bromothiophen-2-aldehyde | 10 mole, 1.911 kg | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | imidazol | 60 mole, 4.084 kg | N1C=NC=C1 | C3H4N2
catalyst | copper | about 1 mole, 0.065 kg | [Cu] | Cu
solvent | water | 10 l | O | H2O
product | 4-(1H-Imidazol-1-yl)-thiophen-2-aldehyde | N1(C=NC=C1)C=1C=C(SC1)C=O | C8H6N2OS
